* Extracted by KLayout with SG13G2 LVS runset on : 15/04/2026 21:23

.SUBCKT LOOP_FILTER VSS OUT IN
R$1 VSS \$1 ptap1 A=93.504p P=623.36u
R$12 IN OUT \$1 rppd w=2u l=407.2u ps=0u b=0 m=1
R$22 IN \$10 \$1 rppd w=2u l=407.2u ps=0u b=0 m=1
C$23 \$10 VSS cap_cmim w=48.34u l=48.34u A=2336.7556p P=193.36u m=16
C$39 OUT VSS cap_cmim w=18.63u l=18.63u A=347.0769p P=74.52u m=4
.ENDS LOOP_FILTER
