** sch_path: /home/designer/shared/LC_VCO_FPLL/xschem/LC_VCO.sch
.SUBCKT LC_VCO VDD VCTRL GND FOUT VBGR
*.PININFO FOUT:O VCTRL:I VBGR:I VDD:B GND:B
MM5 Vx Vgs GND GND sg13_lv_nmos w=384u l=1u ng=48 m=1
MM4 OUTp OUTn VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5 m=1
MM3 OUTn OUTp VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5 m=1
MM2 OUTp OUTn Vx GND sg13_lv_nmos w=22u l=0.13u ng=3 m=1
MM1 OUTn OUTp Vx GND sg13_lv_nmos w=22u l=0.13u ng=3 m=1
MM6 Vgs Vgs GND GND sg13_lv_nmos w=64u l=1u ng=8 m=1
CC1 OUTn OUTp GND rfcmim w=21.9e-6 l=21.9e-6 wfeed=10.0e-6
CC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
CC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
MM7 Vgs VBGR VDD VDD sg13_lv_pmos w=38u l=1u ng=5 m=1
MM8 FOUT OUTp VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10 m=1
MM9 FOUT OUTp GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
MM10 net1 OUTn VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10 m=1
MM11 net1 OUTn GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
x1 OUTn OUTp 4nH_INDUCTOR
**** begin user architecture code


.include /home/designer/shared/LC_VCO_FPLL/spice/4nH_INDUCTOR_lvs.spice


**** end user architecture code
.ENDS
.GLOBAL GND
.GLOBAL VDD
